US08710043B2
Step 5. (S)-2-(5-(((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-oxopyridin-1(2H)-yl)acetic Acid
A mixture of (S)-tert-butyl 2-(5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-oxopyridin-1(2H)-yl)acetate (633 mg, 1.173 mmol) and silica gel 60 (70.5 mg, 1.173 mmol) in toluene (10 mL) was heated to 110° C. After 3 h, the reaction was cooled to 23° C. and filtered. The residue was washed with 10% MeOH/DCM (100 mL), and the filtrates were combined and concentrated affording the title compound as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.08 (d, J=7.8 Hz, 1H), 8.44 (br. s., 2H), 7.87-8.02 (m, 1H), 7.76 (s, 1H), 7.42-7.63 (m, 3H), 7.34 (d, J=8.4 Hz, 1H), 6.66 (d, J=7.4 Hz, 1H), 6.41 (d, J=9.6 Hz, 1H), 4.57 (d, J=3.7 Hz, 2H). MS (ESI, positive ion) m/z: 484.1 (M+H).

reactant | (S)-tert-butyl 2-(5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-oxopyridin-1(2H)-yl)acetate | 1.173 mmol, 633 mg | FC=1C=C(C=CC1OC(F)(F)F)[C@@H](C1=NC=CC=C1F)NC(=O)C=1C=CC(N(C1)CC(=O)OC(C)(C)C)=O | C25H22F5N3O5
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(5-(((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-oxopyridin-1(2H)-yl)acetic Acid | FC=1C=C(C=CC1OC(F)(F)F)[C@@H](C1=NC=CC=C1F)NC(=O)C=1C=CC(N(C1)CC(=O)O)=O | C21H14F5N3O5
